US04608379
5-Ethyl-2-methyl-1-propylpyridinium bromide (7.32 g, 0.03 mole) and 4-diethylaminobenzaldehyde (7.0 g, 0.04 mole) were refluxed for four hours in methanol (50 ml) in the presence of piperidine (1 ml) under nitrogen. On cooling and addition of ether no precipitate was obtained. The solution was evaporated to give a red oil which was dissolved in isopropanol and twice the volume of ether was added, when a red crystalline solid was obtained (5.4 g). 2 Grams were re-dissolved in isopropanol and isopropyl ether was added to give red crystals of 2-[4-(diethylamino)styryl]-5-ethyl-1-propylpyridinium bromide hemihydrate (1.6 g), melting point 165°-167° (decomposition).

reactant | 5-Ethyl-2-methyl-1-propylpyridinium bromide | 0.03 mole, 7.32 g | [Br-].C(C)C=1C=CC(=[N+](C1)CCC)C
reactant | 4-diethylaminobenzaldehyde | 0.04 mole, 7.0 g | C(C)N(C1=CC=C(C=O)C=C1)CC | C11H15NO
reactant | piperidine | 1 ml | N1CCCCC1 | C5H11N
reactant | isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | methanol | 50 ml | CO | CH4O
solvent | isopropanol | C(C)(C)O | C3H8O
solvent | ether | CCOCC | C4H10O
product | 2-[4-(diethylamino)styryl]-5-ethyl-1-propylpyridinium bromide hemihydrate | 1.6 g | O.[Br-].C(C)N(C1=CC=C(C=CC2=[N+](C=C(C=C2)CC)CCC)C=C1)CC.C(C)N(CC)C1=CC=C(C=CC2=[N+](C=C(C=C2)CC)CCC)C=C1.[Br-] | InChI=1S/2C22H31N2.2BrH.H2O/c2*1-5-17-24-18-19(6-2)9-13-22(24)16-12-20-10-14-21(15-11-20)23(7-3)8-4;;;/h2*9-16,18H,5-8,17H2,1-4H3;2*1H;1H2/q2*+1;;;/p-2
